US08053440B2
A solution of 4-iodobenzaldehyde (1 g, 4.31 mmol) in MeOH (50 mL) was mixed with trimethyl orthoformate (4 mL, 36.10 mmol) and p-toluenesulfonic acid (5 mg). The reaction was stirred at room temperature for 3 h and then quenched by adding excess of sodium bicarbonate solid and stirred for 1 h. The solid was removed by filtration and the filtrate was concentrated to yield 1-dimethoxymethyl-4-iodo-benzene (1.2 g, 100%). A mixture of 1-dimethoxymethyl-4-ido-benzene (1.2 g, 4.31 mmol), cesium carbonate (1.4 g, 4.31 mmol), morpholine (0.375 g, 4.31 mmol), and palladium tetrakis(triphenyl)phosphine (0.25 g, 0.216 mmol) in toluene (60 mL) and tert-butanol (10 mL) was thoroughly degassed and stirred at 110° C. for 28 h. The reaction was quenched by adding water (50 mL), extracted with DCM (3×100 mL), concentrated to afford a solid residue. Purification by column chromatography left 4-(4-dimethoxymethyl-phenyl)-morpholine (0.61 g, 60%). A solution of 4-(4-dimethoxyrnethyl-phenyl)-morpholine (0.61 g, 2.58 mmol) in THF (20 mL) was mixed with HCl in ether (10 mL, 10 mmol) and stirred at room temperature for 2 h. The reaction mixture was then neutralized with 1 N sodium bicarbonate aqueous to pH 9 and extracted with DCM (3×100 mL), to afford 4-morpholin-4-yl-benzaldehyde (0.37 g, 75%).

reactant | cesium carbonate | 4.31 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | morpholine | 4.31 mmol, 0.375 g | N1CCOCC1 | C4H9NO
reactant | 4-(4-dimethoxyrnethyl-phenyl)-morpholine | 2.58 mmol, 0.61 g | COC(C1=CC=C(C=C1)N1CCOCC1)OC | C13H19NO3
reactant | HCl | Cl | ClH
reactant | ether | 10 mmol, 10 mL | CCOCC | C4H10O
reactant | sodium bicarbonate | 1 N | C([O-])(O)=O.[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-morpholin-4-yl-benzaldehyde | 0.37 g, 75% | N1(CCOCC1)C1=CC=C(C=O)C=C1 | C11H13NO2
